US07939527B2
Intermediate 18: 4-([1,3]Thiazolo[4,5-b]pyridin-2-yloxy)benzaldehyde
To a solution of 2-chloro[1,3]thiazolo[4,5-b]pyridine (25 g, 147 mmol) in CH3CN (500 mL) was added 4-hydroxybenzaldehyde (19.8 g, 147 mmol, 1 equiv.) and K2CO3 (22.3 g, 147 mmol, 1 equiv.). The heterogeneous mixture was heated at reflux for 72 h and then cooled to rt. Purification was conducted using one of the following methods.

reactant | 2-chloro[1,3]thiazolo[4,5-b]pyridine | 147 mmol, 25 g | ClC=1SC=2C(=NC=CC2)N1 | C6H3ClN2S
reactant | 4-hydroxybenzaldehyde | 147 mmol, 19.8 g, 1 equiv. | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | K2CO3 | 147 mmol, 22.3 g, 1 equiv. | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 500 mL | CC#N | C2H3N
product | 4-([1,3]Thiazolo[4,5-b]pyridin-2-yloxy)benzaldehyde | S1C(=NC2=NC=CC=C21)OC2=CC=C(C=O)C=C2 | C13H8N2O2S
